US07329678B2
5-phenylpyridin-2-amine (2.4 g, 14.10 mmol) was dissolved in 75 ml of dichloromethane. The solution was treated with triethylamine (1.57 g, 15.51 mmol) and trimethylacetylchloride (1.87 g, 15.51 mmol) and the mixture was stirred at room temperature for 1 hour. Silica gel (9 g) was added and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with hexanes/ethyl acetate (5:1) to afford 2,2-dimethyl-N-(5-phenylpyridin-2-yl)propanamide (2.58 g) as a white solid.

reactant | 5-phenylpyridin-2-amine | 14.10 mmol, 2.4 g | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
reactant | triethylamine | 15.51 mmol, 1.57 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetylchloride | 15.51 mmol, 1.87 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-N-(5-phenylpyridin-2-yl)propanamide | 2.58 g | CC(C(=O)NC1=NC=C(C=C1)C1=CC=CC=C1)(C)C | C16H18N2O
